US07211672B2
To a solution of (4-phenylamino-3,4-dihydro-2H-quinolin-1-yl)-(4-methoxy-phenyl)-methanone in methylene chloride was added diisopropylethylamine followed by acetyl chloride. The mixture was stirred at room temperature over night. The mixture was poured into water and extracted with dichloromethane. The extracts were washed with 1 M (aq) NaOH and brine, dried over magnesium sulfate, filtered dried and concentrated. The crude residue was purified by silica gel chromatography (50% hexanes/50% ethyl acetate) to afford (±)-N-[1-(3-methoxy-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-acetamide.

reactant | (4-phenylamino-3,4-dihydro-2H-quinolin-1-yl)-(4-methoxy-phenyl)-methanone | C1(=CC=CC=C1)NC1CCN(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)OC | C23H22N2O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±)-N-[1-(3-methoxy-benzoyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-acetamide | COC=1C=C(C(=O)N2CCC(C3=CC=CC=C23)N(C(C)=O)C2=CC=CC=C2)C=CC1 | C25H24N2O3
